US06028091
A mixture of diethyl [(2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]methyl-2-benzylmalonate (0.72 g, 1.36 mmol), potassium hydroxide (0.83 g, 14.7 mmol), water (15 mL) and ethanol (25 mL) was refluxed for 4 hours. The ethanol was evaporated, the residual aqueous layer was extracted with diethyl ether, and the basic solution was adjusted to pH 3.75 with concentrated hydrochloric acid. The precipitated product was extracted into methylene chloride, dried, and concentrated. This crude product was flash chromatographed on silica gel with 10% methanol in methylene chloride to give 0.51 g (86%) of 3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzylpropanoic acid; mp 118-120° C. (from acetone/diethyl ether as the hydrochloride salt).

reactant | (2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]methyl-2-benzylmalonate | 1.36 mmol, 0.72 g | C(CCC)C=1N(C(=CN1)COC(C(C(=O)[O-])CC1=CC=CC=C1)=O)CC1=C(C=CC=C1)Cl
reactant | potassium hydroxide | 14.7 mmol, 0.83 g | [OH-].[K+]
reactant | water | 15 mL | O | H2O
reactant | ethanol | 25 mL | C(C)O | C2H6O
product | 3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzylpropanoic acid | 0.51 g, 86% | C(CCC)C=1N(C(=CN1)CC(C(=O)O)CC1=CC=CC=C1)CC1=C(C=CC=C1)Cl | C24H27ClN2O2
